US08168666B2
a) Preparation of 5-benzyloxy-2-pentanone
Benzyl trichloroacetimidate (1.85 g) was added to a mixed solution of 5-hydroxy-2-pentanone (500 mg, 4.89 mmol) in dichloromethane (20 mL) in an argon atmosphere at room temperature, and then trifluoromethanesulfonic acid (87 μL) was added in an ice bath. The mixture was returned to room temperature and stirred overnight. After completion of the reaction, a saturated sodium bicarbonate solution was added to the reaction solution in an ace bath, and the pH was adjusted to 8. After extraction with chloroform-water, the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain 610 mg of the title compound (yield: 65%) as a pale yellow oil.

reactant | Benzyl trichloroacetimidate | 1.85 g | ClC(C(OCC1=CC=CC=C1)=N)(Cl)Cl | C9H8Cl3NO
reactant | 5-hydroxy-2-pentanone | 4.89 mmol, 500 mg | OCCCC(C)=O | C5H10O2
reactant | trifluoromethanesulfonic acid | 87 μL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-benzyloxy-2-pentanone | 610 mg, yield: 65% | C(C1=CC=CC=C1)OCCCC(C)=O | C12H16O2
